US08048862B2
To a suspension of 5-methylbenzo[d]oxazole-2-thiol (1.0 g, 6.1 mmol.) in POCl3 (11.7 g, 76.4 mmol.) at room temperature was added PCl5 (1.9 g, 9.15 mmol.) along with CH2Cl2 (10 mL). After 4 h of stirring at room temperature, the reaction mixture was concentrated to remove excess POCl3, and the residue was treated with Na2CO3 solution until ˜pH 8 was reached. The aqueous phase was extracted with CH2Cl2. The combined organic extracts were dried over Na2SO4, filtered and concentrated to afford 2-chloro-5-methylbenzo[d]oxazole (1.1 g crude product) which was used without further purification. MS (ESI) m/e (M+H+) 168.

reactant | 5-methylbenzo[d]oxazole-2-thiol | 6.1 mmol, 1.0 g | CC=1C=CC2=C(N=C(O2)S)C1 | C8H7NOS
reactant | POCl3 | 76.4 mmol, 11.7 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | PCl5 | 9.15 mmol, 1.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-methylbenzo[d]oxazole | 1.1 g | ClC=1OC2=C(N1)C=C(C=C2)C | C8H6ClNO
